US09193719B2
2,2-Dimethylbutyric acid (1 g, 8.6 mmol) was dissolved in DCM (10 mL) and cooled to 0° C. The solution was treated with oxalyl chloride (1.2 mL, 13.8 mmol) and DMF (0.07 mL, 0.87 mmol), allowed to warm to RT, and stirred for 2 h for complete conversion to 2,2-dimethylbutyric acid chloride. The solution was cooled to 0° C. and added to a stirred solution of semicarbazide hydrochloride (1.4 g, 12.9 mmol) and NaOH (1.4 g, 34.4 mmol) in a mixture of dioxane (10 mL) and water (2.0 mL) at 0° C. The reaction mixture was allowed to warm to RT and stirred for 12 h. Organic solvent was evaporated in vacuo, and the resultant slurry was diluted with 2 M NaOH (aq) (50 mL, 100 mmol). The suspension was stirred at 100° C. for 24 h. The aqueous solution was saturated with solid NH4Cl and extracted with EtOAc (5×50 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo to afford 3-(tert-pentyl)-1H-1,2,4-triazol-5(4H)-one (0.71 g, 53.1%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.17 (s, 1H), 11.02 (s, 1H), 1.49 (q, J=7.5 Hz, 2H), 1.11 (s, 6H), 0.68 (t, J=7.4 Hz, 3H); MS (ESI) m/z: 156.1 (M+H+).

reactant | 2,2-Dimethylbutyric acid | 8.6 mmol, 1 g | CC(C(=O)O)(CC)C | C6H12O2
reactant | oxalyl chloride | 13.8 mmol, 1.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.87 mmol, 0.07 mL | CN(C)C=O | C3H7NO
reactant | 2,2-dimethylbutyric acid chloride | CC(C(=O)Cl)(CC)C | C6H11ClO
reactant | semicarbazide hydrochloride | 12.9 mmol, 1.4 g | Cl.NNC(=O)N
reactant | NaOH | 34.4 mmol, 1.4 g | [OH-].[Na+]
reactant | NaOH | 100 mmol, 2 M, 50 mL | [OH-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.0 mL | O | H2O
product | 3-(tert-pentyl)-1H-1,2,4-triazol-5(4H)-one | 0.71 g, 53.1% | C(C)(C)(CC)C1=NNC(N1)=O | C7H13N3O
